US08455500B2
<Step 2> Synthesis of 4-(5-bromo-4-methylpyridin-2-yloxy)-2-methylbutan-2-ol
To a suspension of sodium hydride (to which about 40% of a mineral oil was added, 0.23 g) in N,N-dimethylformamide (10 mL), 5-bromo-2-hydroxy-4-methylpyridine (1.00 g) was added under ice-cooling and the resultant reaction mixture was stirred for 30 minutes. To the reaction mixture, 3-hydroxy-3-methylbutyl 4-methylbenzene sulfonate (1.51 g) was added and the resultant reaction mixture was stirred at 60° C. for 4 hours. To the reaction mixture, a saturated ammonium chloride aqueous solution was added and the resultant reaction mixture was extracted with ethyl acetate. The organic phase was washed with a saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate=50:50 to 33:67) to obtain the subject compound (0.92 g) as a pale yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromo-2-hydroxy-4-methylpyridine | 1.00 g | BrC=1C(=CC(=NC1)O)C | C6H6BrNO
reactant | 3-hydroxy-3-methylbutyl 4-methylbenzene sulfonate | 1.51 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(C)(C)O | C12H18O4S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(5-bromo-4-methylpyridin-2-yloxy)-2-methylbutan-2-ol | 0.92 g | BrC=1C(=CC(=NC1)OCCC(C)(O)C)C | C11H16BrNO2
